US06352976B1
1.6 Synthesis of 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanyl-(L)-phenylalanine t-butyl ester
Combine 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanine (0.14 g, 0.34 mmol), (L)-phenylalanine t-butyl ester hydrochloride salt (0.174 g, 68 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.13 g, 0.67 mmol) in dichloromethane (5 mL). Add N-methylmorpholine (0.1 mL, 1.01 mmol) and hydroxybenzotriazole (0.091 g, 0.67 mmol). After 3 hours, after 1 hour, partition the reaction mixture between methyl t-butyl ether and an aqueous 5% sulfuric acid solution. Separate the layers, extract the organic layer with a saturated sodium bicarbonate solution and then brine. Dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 3/1 hexane/ethyl acetate and then 1/1 hexane/ethyl acetate to give the title compound: Rf=0.45 (silica gel, 1/1 ethyl acetate/hexane).

reactant | 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanine | 0.34 mmol, 0.14 g | COC1=CC=C(CSC(C(=O)N[C@@H](CCC2=CC=CC=C2)C(=O)O)CCC)C=C1 | C23H29NO4S
reactant | (L)-phenylalanine t-butyl ester hydrochloride salt | 68 mmol, 0.174 g | Cl.C(C)(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.67 mmol, 0.13 g | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 1.01 mmol, 0.1 mL | CN1CCOCC1 | C5H11NO
reactant | hydroxybenzotriazole | 0.67 mmol, 0.091 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanyl-(L)-phenylalanine t-butyl ester | C(C)(C)(C)OC([C@@H](NC([C@@H](NC(C(CCC)SCC1=CC=C(C=C1)OC)=O)CCC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C36H46N2O5S
